US03986140
The 2,6 diphenyl-4-(p-ethoxyphenyl) pyridine is then dissolved in glacial acetic acid (20ml) to which 0.2g of Adam's catalyst is added. The compound is then hydrogenated at 3 atm with shaking for 4-5 hours. The catalyst and solvent were removed from the reaction mixture leaving 2,6-dicyclohexyl-4-(p-ethoxyphenyl) pyridine m.p. 106°C.

reactant | 2,6 diphenyl-4-(p-ethoxyphenyl) pyridine | C1(=CC=CC=C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)OCC)C1=CC=CC=C1 | C25H21NO
solvent | acetic acid | 20ml | C(C)(=O)O | C2H4O2
catalyst | Adam's catalyst | 0.2g | O=[Pt]=O
product | 2,6-dicyclohexyl-4-(p-ethoxyphenyl) pyridine | C1(CCCCC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)OCC)C1CCCCC1 | C25H33NO
